* jjt 7/7/2000: modified .ckt to hook up two EL2252 subcircuits and share the V+, V-, HYS and /TTL
*               pins
*
*EL2252 Whole Device
* Connections:           +input1
*                        |   -input1
*                        |   |   +input2            
*                        |   |   |   -input2
*                        |   |   |   |
*                        |   |   |   |   +V
*                        |   |   |   |   |   -V    
*                        |   |   |   |   |   |   HYS ___   
*                        |   |   |   |   |   |   |   TTL
*                        |   |   |   |   |   |   |   |   output1
*                        |   |   |   |   |   |   |   |   |   output2  
*                        |   |   |   |   |   |   |   |   |   |
.subckt EL2252W          1   2   3   4   5   6   7   8   9   10
X1    1   2   5   6   7   8   9    EL2252
X2    3   4   5   6   7   8   10   EL2252
.ends EL2252W

*EL2252 Macromodel
* Connections:          +input
*                       |   -input
*                       |   |   +V
*                       |   |   |   -V    
*                       |   |   |   |   HYS ___   
*                       |   |   |   |   |   TTL
*                       |   |   |   |   |   |   output
*                       |   |   |   |   |   |   |  
*                       |   |   |   |   |   |   |
.subckt EL2252          2   3   14  7   4   5   13
*
* Application Hints:
*
* Connect pin 4 to ground through 1000 Megohm resistor to inhibit
* Hysteresis; to invoke Hysteresis, connect pin 4 to V-.
*
* Connect pin 5 to ground to invoke TTL Voh; pin 5 may left open
* for CMOS Voh.
*
* To faciltate .OP, set itl1 = 200, itl2 = 200, set node 27 to 13.8
* volts, and node 30 to -12 volts.  As an example, if you called your
* subckt x1, then the following statement should be added to your deck:
* 
* .NODESET V(x1.27)=13.8 V(x1.30)=-12
*
*Input Stage 
*
i1  22  7 1.7mA
r1  14 20 300
r2  14 21 300
q1  20  2 22 qn
q2  21  3 22 qn
q3  20 26 23 qn 
q4  21 25 23 qn
q13 25 27 20 qp
q14 26 27 21 qp
v1  14 27 1.2v 
r3  23 24 1.4K
d1  24 4 ds
r4  25 33 700
r5  26 33 700
q16 33 33 34 qn
q17 34 34 37 qn
v4  37 7 1.2v         
*
* 2nd Stage 
*
i2 30 7  3mA   
i3 14 28 1.5mA
q7  0 35 28 qp
v2  44 0 1.2V
s1  44 35 5 0 swa
s2  45 35 5 0 swb
rsw 14 5 10K
v3  45 0 2.5v
q5  0 26 30 qn
q6 28 25 30 qn 
d3 0 28 ds
*
* Output Stage  
* 
i4 14 38 1mA
q8 38 38 39 qn
q9 32 32 39 qp
q10 7 28 32 qp
q11 14 38 40 qn 2
q12  7 28 13 qp 2
r6 40 13 50
*
* Models 
*
.model qn npn(is=2e-15 bf=120 tf=0.2nS cje=0.2pF cjc=0.2pF ccs=0.2pF)
.model qp pnp(is=0.6e-15 bf=60 tf=0.2nS cje=0.5pF cjc=0.3pF ccs=0.2pF)
.model ds d(is=3e-12 tt=0.05nS eg=0.72V vj=0.58)

*.model swa vswitch(von=0v voff=2.5v)
*.model swb vswitch(von=2.5 voff= 0v)
*jg, 7/7/2000: model syntax corrected

.model swa sw(RON=1 ROFF=1000G vt=0v vh=2.5v)
.model swb sw(RON=1 ROFF=1000G vt=2.5v vh= 0v)
.ends
