*EL4089 Macromodel
* Revision A, July 24 1994
*
* Connections:    Vin-
*                 |   Vin+
*                 |   |   Ref
*                 |   |   |   Hold  
*                 |   |   |   |   -Vsupply
*                 |   |   |   |   |   Vout
*                 |   |   |   |   |   |   +Vsupply
*                 |   |   |   |   |   |   |
.subckt EL4089    1   2   3   4   6   7   8
********Restore section
g10 2 0 xx 0 430u
e10 yy 0 ww 3 4.66
Rfl 7 ww 8K
Cfl ww 0 20p
Rd yy ss 100 
d10 xx 0 dd
d20 0 xx dd
s1 xx ss 4 0 swno
s2 0 xx 4 0 swnc
rcl 3 0 999K
Rhh 4 0 100K

*.model swno vswitch (von=2.4 voff=0.8)
*.model swnc vswitch (von=0.8 voff=2.4)

.model swno sw(ron=1 roff=1000g vt=2.4 vh=0.8)
.model swnc sw(ron=1 roff=1000g vt=0.8 vh=2.4)

********************** 
* Input Stage 
e1 10 0 2 0 1.0
vis 10 9 0V
h2 9 12 Vxx 1.0
r1 1 11 20
l1 11 12 20nH
iinp 2 0 1u
iinn 1 0 18u
r12 2 0 2MEG
* Slew Rate Limiting
h1 13 0 vis 600
r2 13 14 1k
d1 14 0 dd
d2 0 14 dd
* High Frequency Pole
e2 30 0 14 0 0.00166666666
l3 30 17 1.47u
c5 17 0 0.47p
r5 17 0 700
* Transimpedance Stage
g1 0 18 17 0 1.0
rol 18 0 800k
cdp 18 0 11p
* Output Stage
q1 6 18 19 qp
q2 8 18 20 qn
q3 8 19 21 qn
q4 6 20 22 qp
r7 21 7 3
r8 22 7 3
ios1 8 19 2mA
iso2 20 6 2mA
* Supply Current
ips 8 6 6.5mA
* Error Term
iovs 0 23 12m
Vxx 23 0 0V
e4 24 0 2 0 1.0
e5 25 0 8 0 1.0
e6 26 0 6 0 1.0
r9 23 24 560
r10 25 23 1k
r11 26 23 1k
* Models
.model qn npn (is=5e-15, bf=100, tf=0.1ns)
.model qp pnp (is=5e-15, bf=100, tf=0.1ns)
.model dclamp d(is=1e-20, ibv=0.266, bv=2.24, n=4) 
.model dd d rs=2  
.ends