* EL4094 Macromodel
* Revision A, July 1993
*
* This macromodel is offered to allow simulation of general EL4094
* behavior. We have included these characteristics:
* 
*  Small Signal Frequency Response  
*  Output Loading Effects
*  Input Impedance
*  Off Channel Feedthrough
*  Output Impedance over Frequency
*  Signal Path DC Distortion 
*  VGAIN IV Characteristics
*  VGAIN overdrive Recovery Delay
*  100% Gain Error
*
* The Macromodel does not behave identically as the circuit in 
* these areas: Temperature effects, Signal overload effects,
* Signal and /VG operating range, current limit, supply voltage
* effects, slew rate limitations, noise, and power supply inter-
* action. 
*
* The Macromodel's netlist is based on PSPICE simulator, copy
* written by Microsim Corporation. Other simulators may not 
* support the POLY function which is used to implement multi-
* plication as well as square law nonlinearities.
*
* Connections:         vinb 
*                       |   vout__
*                       |   |   vg      
*                       |   |   |   vg    
*                       |   |   |   |   vina 
*                       |   |   |   |   |
.subckt EL4094          1   4   6   7   8 
*
rol    810 0 290K                     
ccomp  810 0 3.5pF 
g1      10 0 810 0 -10
rout    10 0 0.1
lout    10 4 350.2nH
rlout   10 4 80
r1      10 910 10
c1     910 911 300pF
r2     911  0 90
*  
* Input Channel A
*
rina   22 10 16K
ra     11  0  1K
cfeeda 23  8 130pF
rfeeda 8  22 1.0
e1a   23  22 1 0 1.0
rspice3 23 22 1e12
g1a  11 0 poly(1) (22,910) 0.0 0.001 -3e-6
g2a 810 0 poly(2) (11,0) (13,0) 0.0 0.0 0.0 0.0 0.001
*
* Input Channel B 
*
rinb   25 10 16K
rb     20  0  1K
cfeedb 24  1 130pF
rfeedb  1 25 1.0
elb    24 25 8 0 1.0
rspice4 24 25 1e12
g1b  20 0 poly(1) (25,910) 0.0 0.001 -3e-6
g2b 810 0 poly(2) (20,0) (19,0) 0.0 0.0 0.0 0.0 0.001
*   
* Gain Control
rspice1 13 0 1e12
rspice2 18 0 1e12
r10     14 0 1e7
c10     14 0 8e-16
d1      14 15 dclamp
d2      16 14 dclamp
.model dclamp d(tt=200nS)
v1     15  0 4999.3
v2      0 16 4999.3
v3     13 17 0.5
v4     19 18 0.5
g10    14  0  7  6 -0.001
g11     7  6 14  0 -2e-8
e10    17  0 14  0  1e-4 
e11    18  0 14  0 -1e-4
.ends