* EL4095 Macromodel
* Revision A, July 1993
*
* This macromodel is offered to allow simulation of general EL4095
* behavior. We have included these characteristics:
* 
*  Small Signal Frequency Response  
*  Output Loading Effects
*  Input Impedance
*  Off Channel Feedthrough
*  Output Impedance over Frequency
*  Signal Path DC Distortion 
*  VGAIN IV Characteristics
*  VGAIN overdrive Recovery Delay
*  100% Gain Error
*  -Vin characteristics & sensitivity to parasistic capacitance
*  /FORCE operation
*
* The Macromodel does not behave identically as the circuit in 
* these areas: Temperature effects, Signal overload effects,
* Signal and /VG operating range, current limit, supply voltage
* effects, slew rate limitations, noise, power supply inter-
* action, video and high frequency distortion, glitch and 
* delay from /FORCE inputs, and manufacturing tolerances. 
*
* The Macromodel's netlist is based on PSPICE simulator, copy
* written by Microsim Corporation. Other simulators may not 
* support the POLY function which is used to implement multi-
* plication as well as square law nonlinearities.
*
* Connections:   +vinb 
*                |   -vinb_______
*                |   |    Force A______
*                |   |    |      ForceB
*                |   |    |      |    vout _____
*                |   |    |      |    |    vgain
*                |   |    |      |    |    |    vgain    
*                |   |    |      |    |    |    |    -vina
*                |   |    |      |    |    |    |    |    +vina
*                |   |    |      |    |    |    |    |    |
.subckt EL4095   1   2    4      5    7    10   11   13   14
*
rol    810 0 290K                     
ccomp  810 0 4.3pF 
g1     110 0 810 0 -10
rout   110 0 0.1
lout   110 7 350nH
rlout  110 7 80
*  
rina+   14  0 5e6
rinb+    1  0 5e6
rvg     11  0 2e6
rvgg    10  0 2e6
rforcea  4  0 1e9
rforceb  5  0 1e9
*
* Input Channel A
*
rina    22 313  79
ra     111   0  1K
rfeeda  13 313 1.0
cfeeda  23  13 2500pF
ccompa 111   0 2pF
e1a     23  313 302 25 -1.0
e2a     22    0 14 0 0.9999 
rspice3 23  313 1e12
g1a  111 0 poly(1) (22,313) 0.0 0.125 -150e-6
g2a  810 0 poly(2) (111,0) (113,0) 0.0 0.0 0.0 0.0 0.001
*
* Input Channel B 
*
rinb   25 302  79
rb    120   0  1K
rfeedb  2 302  1.0  
cfeedb 24   2  2500pF

*ccomp 120   0   2pF 
*jg, 10/7/2000: error corrected

ccompb 120   0   2pF
e1b    24  302 22 313 -1
e2b    25    0  1   0 0.9999 
rspice4 24 302 1e12
g1b  120 0 poly(1) (25,302) 0.0 0.125 -150e-6
g2b  810 0 poly(2) (120,0) (119,0) 0.0 0.0 0.0 0.0 0.001
*   
* Gain Control
rspice1 113 0 1e12
rspice2 119 0 1e12
r10     114 0 1e7
r11 204 206 2.5e6
r12 205 206 2.5e6
c10 201   0 9.5e-16
d1  114 115 dclamp
d2  116 114 dclamp
d3  204   4 dclamp
d4  205   5 dclamp 
.model dclamp d(tt=200nS)
vtt1 206 0 2.4
v1  115   0 4999.3
v2    0 116 4999.3
v3  113 117  0.5
v4  119 118  0.5
v5  203 115  0.7
v6  116 202  0.7
g10 114  0  11 10 -0.001
g11  11 10 114 0  -2e-8
e10 117  0 201 0  1e-4 
e11 118  0 201 0 -1e-4
s1 114 200 5 0 nopen
s2 200 201 4 0 nopen
s3 203 201 4 0 nclosed
s4 202 201 5 0 nclosed

*.model nopen   vswitch(ron=100 roff=1e12 von=1.6 voff=1.2)
*.model nclosed vswitch(ron=100 roff=1e12 von=1.2 voff=1.6)
*jg, 10/7/2000: model syntax corrected

.model nopen   sw(ron=100 roff=1e12 vt=1.6 vh=1.2)
.model nclosed sw(ron=100 roff=1e12 vt=1.2 vh=1.6)
.ends