* EL4430 Macromodel
*  Revision A, May 1995
*  This is a Pspice-compatible macromodel of the EL4430 video instrumentation 
*  amplifier assembled as a subcircuit.  The pins are numbered sequentially 
*  as the subcircuit interface nodes.  T1 is a transmission line which
*provides 
*  a good emulation of the more complicated real device.  This model correctly 
*  displays the characteristics of input clipping, frequency response, CMRR
*  both AC and DC, output clipping, output sensitivity to capacitive loads,
*  gain accuracy, slewrate limiting, input bias current and impedance.  The
*  macromodel does not exibit proper results with respect to supply current,
*  supply sensitivities, offsets, output current limit, differential gain or
*  phase, nor temperature.
*  Connections:           IN+
*                         |   VIN-
*                         |   |   V-
*                         |   |   |   V+
*                         |   |   |   |   VFB
*                         |   |   |   |   |   VREF
*                         |   |   |   |   |   |   VOUT
*                         |   |   |   |   |   |   |   GND
*                         |   |   |   |   |   |   |   |
.SUBCKT EL4430            3   4   2   7   6   5   8   1
***
*** EL4430 macromodel ***
***
******
i1 7 10 .00103
i2 7 11 .00103
i3 7 12 .00105
i4 7 13 .00105
v1 7 14 3
v2 7 15 3
v3 19 2 3
******
c1 11 1 .03p
c2 12 1 .03p
c3 18 1 2.1p
c4 16 17 0.6p
******
r1 10 11 2000
r2 12 13 2000
r3 10 1 30e6
r4 16 2 1000
r5 17 2 1000
r6 18 1 1.27e6
r7 23 21 20
r8 21 8 100
******
l1 21 8 50n
******
d1 11 14 diode
d2 12 14 diode
d3 18 15 diode
d4 19 18 diode
.model diode d(tt=120n)
******
q1 16 3 10 1 pnp
q2 17 4 11 1 pnp
q3 16 5 12 1 pnp
q4 17 6 13 1 pnp
.model pnp pnp (bf=90 va=44 tr=50n)
******
g1 18 1 17 16 .0005
e1 20 1 1 18 1.0
t1 22 1 20 1 z0=50 td=1.5n
rlt1 22 1 50
e2 23 1 22 1 1.0
******
.ENDS