*
* Ladder Network
*
*Res1 = R, Res2 = 2R
*ResPack_16
*
.SUBCKT EXBM16D 1 2 3 4 5 6 7 8 9 10 11 12 13 14 15 16 PARAMS: Res1=10k Res2=20k
R1 1 16 {Res2}
R2 2 15 {Res2}
R3 3 14 {Res2}
R4 4 13 {Res2}
R5 5 12 {Res2}
R6 6 11 {Res2}
R7 7 10 {Res2}
R8 16 15 {Res1}
R9 15 14 {Res1}
R10 14 13 {Res1}
R11 13 12 {Res1}
R12 12 11 {Res1}
R13 11 10 {Res1}
R14 10 20 {Res1}
R15 9 20 {Res2}
R16 8 20 {Res2}
.ENDS EXBM16D