*
* Voltage Divider
*
*Res1 = R, Res2 = 2R
*ResPack_12
*
.SUBCKT EXBM16G 1 2 3 4 5 6 7 8 9 10 11 12 13 14 15 16 PARAMS: Res1=160 Res2=240
R1 2 16 {Res1}
R2 2 15 {Res2}
R3 3 16 {Res1}
R4 3 14 {Res2}
R5 4 16 {Res1}
R6 4 13 {Res2}
R7 5 16 {Res1}
R8 5 12 {Res2}
R9 6 16 {Res1}
R10 6 11 {Res2}
R11 7 16 {Res1}
R12 7 10 {Res2}
.ENDS EXBM16G