*
* Line Terminator
*Res1 = R, Res2 = 2R
*ResPack_28
*
.SUBCKT EXBM16Y 1 2 3 4 5 6 7 8 9 10 11 12 13 14 15 16 PARAMS: Res1=160 Res2=240
R1 1 16 {Res1}
R2 1 8 {Res2}
R3 2 16 {Res1}
R4 2 8 {Res2}
R5 3 16 {Res1}
R6 3 8 {Res2}
R7 4 16 {Res1}
R8 4 8 {Res2}
R9 5 16 {Res1}
R10 5 8 {Res2}
R11 6 16 {Res1}
R12 6 8 {Res2}
R13 7 16 {Res1}
R14 7 8 {Res2}
R15 9 16 {Res1}
R16 9 8 {Res2}
R17 10 16 {Res1}
R18 10 8 {Res2}
R19 11 16 {Res1}
R20 11 8 {Res2}
R21 12 16 {Res1}
R22 12 8 {Res2}
R23 13 16 {Res1}
R24 13 8 {Res2}
R25 14 16 {Res1}
R26 14 8 {Res2}
R27 15 16 {Res1}
R28 15 8 {Res2}
.ENDS EXBM16Y