*  HA-2500
*  COPYRIGHT (C) 1991 HARRIS CORPORATION
*  ALL RIGHTS RESERVED
*
*  HA-2500 MacroModel
*  Rev: 8-01-91  DW Riemer
*
* Connections:
*               Non-Inverting Input
*               | Inverting Input
*               | | Positive Power Supply
*               | | | Negative Power Supply
*               | | | | Output
*               | | | | |
.SUBCKT HA2500  1 2 4 5 3
.MODEL DP D  IS=1E-14  N=15.486
.MODEL DN D  IS=1E-14  N=15.486
.MODEL DV D  IS=2.7631E-15  N=.2
.MODEL D1 D  IS=1E-9  N=1
.MODEL D2 D  IS=1E-9  N=1.0
.MODEL DX D  IS=1E-20  N=30.0
*
*                     Input Stage
*  Value of source VN models Vio and may be adjusted as desired.
VP 1 6 0
VN 2 7 2E-03
I1 8 0 1.9E-07
FA 2 0 VN 1.053E-01
DP 6 8 DP
DN 7 8 DN
FP 9 0 VP  4.053E03
FN 0 9 VN  4.053E03
GC 0 9 8 0 5.4413E-08
GPP 9 0 4 0 3.0598E-08
GPN 9 0 5 0 5.4413E-08
IRX 0 9 -9.3646E-09
RT 9 0 1.0
*
*                 Poles
EP1 10 0 9 0 1.0
RP1 10 11 1.0613E02
CP1 11 0 1E-10
EP2 12 0 11 0 1.0
RP2 12 13 3.184E01
CP2 13 0 1E-10
*
*                 Output Stage
G2 0 14 13 0 1.0
R2 14 0 6.5577E02
CC 14 15 2.2E-11
GOL 15 0 14 0 4.3777E02
RD 15 0 90.0
DH 15 16 DV
DL 17 15 DV
*ECC 16 0 POLY 1  4 0 -2.7  1.0
BECC 16 0 V=-2.7+1.0*v(4,0)
*EEE 17 0 POLY 1  5 0 +2.9  1.0
BEEE 17 0 V=2.9+1.0*v(5,0)
IH 4 0 4.5E-03
IL 0 5 4.5E-03
GPS 18 0 15 3 0.9999E-01
DPH 4 18 DX
DPL 18 5 DX
D1 15 19 D1
D2 19 15 D2
*EX1 19 0 POLY 2  15 0 3 0 0.0   -9.1757E-01   1.9137
BEX1 19 0 V=-9.1757E-01*v(15,0)+1.9137*v(3,0)
RO 15 3 10.0
.ENDS HA2500